US07326791B2
(c) (5-chloro-1H-benzimidazol-2-yl)acetic acid hydrochloride
0.68 g (2.27 mmol) of 75% methyl (5-chloro-1H-benzimidazol-2-yl)acetate is suspended in 20 mL of concentrated hydrochloric acid solution and stirred for 16 hours at ambient temperature. The precipitate formed is suction filtered and the filtrate concentrated in vacuo at 50° C. The residue is taken up twice in toluene and twice in diethyl ether, the volatile constituents are eliminated in vacuo. The residue is washed with diethyl ether. Yield: 0.23 g (41%) (hydrochloride); Rf value: 0.15 (silica gel; dichloromethane/ethanol=8:2+1% glacial acetic acid); C9H7ClN2O2 x HCl (210.62/247.08); mass spectrum: (M+H)+=211/213 (chlorine isotope).

reactant | methyl (5-chloro-1H-benzimidazol-2-yl)acetate | 2.27 mmol, 0.68 g | ClC1=CC2=C(NC(=N2)CC(=O)OC)C=C1 | C10H9ClN2O2
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | (5-chloro-1H-benzimidazol-2-yl)acetic acid hydrochloride | Cl.ClC1=CC2=C(NC(=N2)CC(=O)O)C=C1 | InChI=1S/C9H7ClN2O2.ClH/c10-5-1-2-6-7(3-5)12-8(11-6)4-9(13)14;/h1-3H,4H2,(H,11,12)(H,13,14);1H
